US04680300
2(B) 1-Chloro-8-(1-naphthyloxy)octane
A mixture of 1-naphthol (12.9 g), potassium carbonate (23.5 g), 1-chloro-8-(p-toluenesulphonyloxy)octane (23.5 g) and dimethylformamide (200 ml) was stirred at 55° for 2-1/2 days. The solution was then cooled and added to water, and extracted with ether. The extract was dried and evaporated and the residue was chromatographed on silica gel (750 g), eluting with 3:1 hexane: methylene chloride, so as to afford the title compound as an oil.

reactant | 1-naphthol | 12.9 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | potassium carbonate | 23.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-8-(p-toluenesulphonyloxy)octane | 23.5 g | ClCCCCCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C15H23ClO3S
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Chloro-8-(1-naphthyloxy)octane | ClCCCCCCCCOC1=CC=CC2=CC=CC=C12 | C18H23ClO
